US03953430
Preparation of 4-Benzyl-4,9-dihydro-9-methyl-10H-thieno-[3,4-b] [1,5]benzodiazepin-10-one
To a stirred solution of 0.18 g. of 57% sodium hydride-mineral oil dispersion in 25 ml. of dimethylformamide is added 0.92 g. of 4,9-dihydro-9-methyl-10H-thieno[3,4-b] [1,5]-benzodiazepin-10-one and 0.8 ml. of benzyl bromide. The mixture is stirred at room temperature for 3.5 hours, quenched by dropwise addition of water, diluted with 200 ml. of water and extracted several times with chloroform. The chloroform extracts are dried over magnesium sulfate and concentrated under reduced pessure to give an amber oil, which crystallizes on trituration with methanol. Recrystallization from aqueous methanol and then from ethyl acetate gives off-white crystals, m.p. 151.5°-153°C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4,9-dihydro-9-methyl-10H-thieno[3,4-b] [1,5]-benzodiazepin-10-one | CN1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C12H10N2OS
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Benzyl-4,9-dihydro-9-methyl-10H-thieno-[3,4-b] [1,5]benzodiazepin-10-one | C(C1=CC=CC=C1)N1C=2C(C(N(C3=C1C=CC=C3)C)=O)=CSC2 | C19H16N2OS
